US06448242B1
Preparation of 1,4-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]piperazine dihydrochloride
Concentrated hydrochloric acid (0.050 ml; 0.60 mmol) was added to a solution of 1,4-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]piperazine (100 mg; 0.12 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from methanol-diethyl ether to obtain the title compound as colorless needles.

reactant | hydrochloric acid | 0.60 mmol, 0.050 ml | Cl | ClH
reactant | 1,4-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]piperazine | 0.12 mmol, 100 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CN2CCN(CC2)CC2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | C48H60N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,4-bis[[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]methyl]piperazine dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CN2CCN(CC2)CC2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | InChI=1S/C48H60N4O8.2ClH/c1-55-41-27-39(28-42(56-2)45(41)59-5)35-7-11-37(12-8-35)47(53)51-19-15-33(16-20-51)31-49-23-25-50(26-24-49)32-34-17-21-52(22-18-34)48(54)38-13-9-36(10-14-38)40-29-43(57-3)46(60-6)44(30-40)58-4;;/h7-14,27-30,33-34H,15-26,31-32H2,1-6H3;2*1H
